US04020079
4 Parts of 3-[2-(cyclohexylthio)ethyl]sydnone is stirred with 4 parts of potassium acetate in 40 parts by volume of acetic acid while 2.8 parts of bromine in 10 parts by volume of acetic acid is added dropwise. Stirring is continued for 30 minutes and then the reaction mixture is poured into water, filtered and washed with water to give 3-[2-(cyclohexylthio)ethyl]-4-bromosydnone.

reactant | 3-[2-(cyclohexylthio)ethyl]sydnone | C1(CCCCC1)SCC[N+]=1[N-]OC(C1)=O | C10H16N2O2S
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromine | BrBr | Br2
solvent | water | O | H2O
product | 3-[2-(cyclohexylthio)ethyl]-4-bromosydnone | C1(CCCCC1)SCC[N+]=1[N-]OC(C1Br)=O | C10H15BrN2O2S
